US06492403B1
5-(Methoxycarbonyl)-2-(methylthio)-thiophene-3-thiocarboxamide (100 mg, 0.4 mmol, Maybridge Chemical Company, Cornwall, UK) was dissolved in acetone (20 ml). To this solution, methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate (112 mg) as prepared in previous step was added and heated at reflux for 3 h. At this point the solid that precipitated was filtered off and washed with acetone and dried under vacuum to give 82 mg (65%) of methyl 5-methylthio-4-(2-phenyl(1,3-thiazol-4-yl))thiophene-2-carboxylate. 1H-NMR (CDCl3; 300 MHz) δ2.67 (s, 3H), 3.91 (s, 3H), 7.44-7.49 (m, 3H), 7.61 (s, 1H), 8.03-8.06 (m, 2H), 8.28 (s, 1H).

reactant | 5-(Methoxycarbonyl)-2-(methylthio)-thiophene-3-thiocarboxamide | 0.4 mmol, 100 mg | COC(=O)C1=CC(=C(S1)SC)C(N)=S | C8H9NO2S3
reactant | methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate | 112 mg | BrCC(=O)C=1C=C(SC1C)C(=S)OC | C9H9BrO2S2
reactant | acetone | 20 ml | CC(=O)C | C3H6O
product | methyl 5-methylthio-4-(2-phenyl(1,3-thiazol-4-yl))thiophene-2-carboxylate | 82 mg, 65% | CSC1=C(C=C(S1)C(=O)OC)C=1N=C(SC1)C1=CC=CC=C1 | C16H13NO2S3
